US07125907B2
A solution of 3-(2-carboxy-5-mercaptopentyl)benzoic acid (5.12 g, 20 mmol) and 10-camphorsulfonic acid (500 mg) in toluene (30 mL) was refluxed for 6 hours. The liberated water was removed using a Dean-Stork azeotropic adapter. Toluene was then distilled off under reduced pressure and the residue was purified by silica gel chromatography (EtOAc/hexanes, 1:4). Fractions containing the product were collected, evaporated and recrystallized from EtOAc/hexanes to afford 3.2 g of 3-[(2-oxotetrahydro-2H-thiopyran-3-yl)methyl]benzoic acid as a white solid (67% yield): 1H NMR (CDCl3) δ 1.58–1.68 (m, 1 H), 1.90–2.02 (m, 2 H), 2.04–2.13 (m, 1 H), 2.68 (m, 1 H), 2.78–2.86 (m, 1 H), 3.08–3.19 (m, 2 H), 3.37–3.44 (m, 1 H), 7.38–7.48 (m, 2 H), 7.93 (brs, 1 H), 7.94–8.02 (m, 1 H); 13C NMR (CDCl3) δ 22.6, 27.8, 31.1, 36.8, 52.0, 128.8, 129.2, 129.8, 131.3, 135.3, 140.1, 172.6, 203.7. Analysis calculated for C13H14O3S: C, 62.38; H, 5.64; S, 12.81. Found: C, 62.19; H, 5.65; S, 12.59.

reactant | 3-(2-carboxy-5-mercaptopentyl)benzoic acid | 20 mmol, 5.12 g | C(=O)(O)C(CC=1C=C(C(=O)O)C=CC1)CCCS | C13H16O4S
reactant | 10-camphorsulfonic acid | 500 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[(2-oxotetrahydro-2H-thiopyran-3-yl)methyl]benzoic acid | 3.2 g, 67% yield | O=C1SCCCC1CC=1C=C(C(=O)O)C=CC1 | C13H14O3S
